US07186734B2
5-Butyl-3-chloro-4-hydroxymethyl-6-phenyl-pyridazine.
Concentrated H2SO4 (0.17 ml, 3.2 mmol), (NH4)2S2O8 (0.575 g, 2.52 mmol) and AgNO3 (4 mg) are added to a solution of 4-butyl-6-chloro-3-phenyl-pyridazine (0.526 g, 2.1 mmol) in MeOH (12 mL) and water (6 mL). The mixture is heated at 75° C. for 3 h and the solvent is then evaporated in vacuo. The residue is partitioned between saturated aqueous NaHCO3 solution (30 mL) and EtOAc (30 mL) and the organic layer is washed with water (25 mL), brine (25 mL), and then dried (Na2SO4). Evaporation of the solvent in vacuo provides a yellow oil. Flash column chromatography (silica gel, 2:1 hexane, EtOAc) provides the product as a light yellow solid. LC-MS (M+1) 277. 1H NMR (δ, CDCl3) 7.42–7.50 (m, 5H), 4.87 (s, 2H), 2.75 (t, J=8.1 Hz, 2H), 2.40 (s, 1H), 1.34–1.43 (m, 2H), 1.17–1.25 (m, 2H), 0.74 (t, J=7.5 Hz, 3H).

reactant | H2SO4 | 3.2 mmol, 0.17 ml | OS(=O)(=O)O | H2O4S
reactant | 4-butyl-6-chloro-3-phenyl-pyridazine | 2.1 mmol, 0.526 g | C(CCC)C1=C(N=NC(=C1)Cl)C1=CC=CC=C1 | C14H15ClN2
reactant | hexane | CCCCCC | C6H14
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | 12 mL | CO | CH4O
solvent | water | 6 mL | O | H2O
catalyst | AgNO3 | 4 mg | [N+](=O)([O-])[O-].[Ag+]
product | 5-Butyl-3-chloro-4-hydroxymethyl-6-phenyl-pyridazine | C(CCC)C=1C(=C(N=NC1C1=CC=CC=C1)Cl)CO | C15H17ClN2O
